datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CN(C)c1cccc(/C(=N\[O:21][H:20])C(F)(F)F)c1.COC1=CC=CC(=O)C([O-:10])=C1>>CN(C)c1cccc(/C(=N\[O-:21])C(F)(F)F)c1.COC1=CC=CC(=O)C([O:10][H:20])=C1 10=20;20,21=21",
"O=C([O-])CCCCCCCC[NH2:10].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>O=C([O-])CCCCCCCC[NH2+:10][H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CCCCCCC[NH:10]Cc1ccc(C)cc1.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CCCCCCC[NH+:10](Cc1ccc(C)cc1)[H:20].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"COC(=O)C1=CN([NH2+:21][H:20])C(=O)C(Br)=C1.O=C(Nc1ccccc1[NH2:10])c1ccc([N+](=O)[O-])cc1>>COC(=O)C1=CN([NH2:21])C(=O)C(Br)=C1.O=C(Nc1ccccc1[NH2+:10][H:20])c1ccc([N+](=O)[O-])cc1 10=20;20,21=21",
"NCCCNCCC[NH2:10].[H][C:21](C(C)=O)(C(C)=O)[H:20]>>NCCCNCCC[NH2+:10][H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"COc1c([O-:10])ccc2c1C[N+]1(C)CCc3cc4c(cc3C1C2)OCO4.O=C(c1csc2ccccc12)[O:21][H:20]>>COc1c([O:10][H:20])ccc2c1C[N+]1(C)CCc3cc4c(cc3C1C2)OCO4.O=C(c1csc2ccccc12)[O-:21] 10=20;20,21=21",
"COc1cc[n+:21]([H:20])cn1.[O-][n+]1c2ccccc2[n+]([O-:10])c2ccccc21>>COc1cc[n:21]cn1.[O-][n+]1c2ccccc2[n+]([O:10][H:20])c2ccccc21 10=20;20,21=21",
"COc1nc(C)cc([O:21][H:20])[nH+]1.NC(Nc1ccccc1)=[NH:10]>>COc1nc(C)cc([O-:21])[nH+]1.NC(Nc1ccccc1)=[NH+:10][H:20] 10=20;20,21=21",
"N#C[S-:10].O=C([C@]1(Cl)[C@@H]2CCC[C@@H]21)[O:21][H:20]>>N#C[S:10][H:20].O=C([C@]1(Cl)[C@@H]2CCC[C@@H]21)[O-:21] 10=20;20,21=21",
"N#CC(C#N)=N[N-:10]c1ccccc1O.O=C1CCC(C(=O)[O:21][H:20])N1>>N#CC(C#N)=N[N:10](c1ccccc1O)[H:20].O=C1CCC(C(=O)[O-:21])N1 10=20;20,21=21",
"Cc1[nH]c(-c2ccccc2[S:21][H:20])[nH+]c1C.O=S1(=O)N=C[N-:10]c2ncccc21>>Cc1[nH]c(-c2ccccc2[S-:21])[nH+]c1C.O=S1(=O)N=C[N:10]([H:20])c2ncccc21 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1.NCCCC[NH:10]CCCN>>C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1.NCCCC[NH+:10](CCCN)[H:20] 10=20;20,21=21",
"C[N+]1=CC=C(C(=O)[CH:21](C2=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C2)[H:20])C=C1.O=C([O-])C[O-:10]>>C[N+]1=CC=C(C(=O)[CH-:21]C2=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C2)C=C1.O=C([O-])C[O:10][H:20] 10=20;20,21=21",
"Cc1csc(-c2ccc([N:21](S(=O)(=O)c3ccc(N)cc3)[H:20])cc2)n1.O=C([O-])CNC(=O)c1ccccc1[O-:10]>>Cc1csc(-c2ccc([N-:21]S(=O)(=O)c3ccc(N)cc3)cc2)n1.O=C([O-])CNC(=O)c1ccccc1[O:10][H:20] 10=20;20,21=21",
"CC(Cc1ccc2c(c1)OCO2)[NH2+:21][H:20].O=C1N[C@@H](Cc2c[n:10]c[nH]2)C(=O)N[C@H]1Cc1cnc[nH]1>>CC(Cc1ccc2c(c1)OCO2)[NH2:21].O=C1N[C@@H](Cc2c[n+:10]([H:20])c[nH]2)C(=O)N[C@H]1Cc1cnc[nH]1 10=20;20,21=21",
"CC(Cc1ccccc1)[NH:10]C.CC[N+:21](CC)(Cc1ccccc1O)[H:20]>>CC(Cc1ccccc1)[NH+:10](C)[H:20].CC[N:21](CC)Cc1ccccc1O 10=20;20,21=21",
"COc1cc(S(C)=O)ccc1-c1nc2ccn[n:10]c2[nH]1.c1c(CN2CC[NH2+]CC[NH+:21]([H:20])CC2)n[nH]c1CN1CCNCC[NH2+]CC1>>COc1cc(S(C)=O)ccc1-c1nc2ccn[n+:10]([H:20])c2[nH]1.c1c(CN2CC[NH2+]CC[NH:21]CC2)n[nH]c1CN1CCNCC[NH2+]CC1 10=20;20,21=21",
"O=C(Cc1cccc[n+:21]1[H:20])c1ccccc1.O=C(c1ccccc1)c1c(C(=O)[O-:10])cccc1[N+](=O)[O-]>>O=C(Cc1cccc[n:21]1)c1ccccc1.O=C(c1ccccc1)c1c(C(=O)[O:10][H:20])cccc1[N+](=O)[O-] 10=20;20,21=21",
"CC[SH+]C(O)(C(F)(F)F)[O:21][H:20].O=C(CCCl)[O-:10]>>CC[SH+]C(O)(C(F)(F)F)[O-:21].O=C(CCCl)[O:10][H:20] 10=20;20,21=21",
"CC[N:10]1CCCC1CNS(=O)(=O)c1ccc(OC)c(OC)c1OC.Cc1ccc2cccc([O:21][H:20])c2n1>>CC[N+:10]1([H:20])CCCC1CNS(=O)(=O)c1ccc(OC)c(OC)c1OC.Cc1ccc2cccc([O-:21])c2n1 10=20;20,21=21",
"Cc1cnc2c(ccc3c(C)cc[n:10]c32)c1.c1ccc(-c2cc[n+:21]([H:20])cc2)nc1>>Cc1cnc2c(ccc3c(C)cc[n+:10]([H:20])c32)c1.c1ccc(-c2cc[n:21]cc2)nc1 10=20;20,21=21",
"Cc1cc(-c2ccccc2)nn2c(C[NH+]3CCOCC3)c[n+:21]([H:20])c12.Nc1ccc(-c2ccc(/N=C/c3ccccc3[O-:10])cc2)cc1>>Cc1cc(-c2ccccc2)nn2c(C[NH+]3CCOCC3)c[n:21]c12.Nc1ccc(-c2ccc(/N=C/c3ccccc3[O:10][H:20])cc2)cc1 10=20;20,21=21",
"C[Se](=O)[O-:10].[NH3+]C(CC(=O)[O-])c1cccc[n+:21]1[H:20]>>C[Se](=O)[O:10][H:20].[NH3+]C(CC(=O)[O-])c1cccc[n:21]1 10=20;20,21=21",
"O=C([O-])CN(CC(=O)[O-:10])Cc1cc(Cl)cc(C[NH+](CC(=O)[O-])CC(=O)O)c1O.Oc1ccc2ccn[n+:21]([H:20])c2c1>>O=C([O-])CN(CC(=O)[O:10][H:20])Cc1cc(Cl)cc(C[NH+](CC(=O)[O-])CC(=O)O)c1O.Oc1ccc2ccn[n:21]c2c1 10=20;20,21=21",
"CCOC(=O)C1CC2CC[N:10]1CC2.N[NH+:21](CCO)[H:20]>>CCOC(=O)C1CC2CC[N+:10]1([H:20])CC2.N[NH:21]CCO 10=20;20,21=21",
"C[N+:21](C)(c1cccc(Cl)c1)[H:20].O=C(CCBr)[O-:10]>>C[N:21](C)c1cccc(Cl)c1.O=C(CCBr)[O:10][H:20] 10=20;20,21=21",
"CC1=C(CC(C)[NH+:21](CC(O)c2ccc(Br)cc2)[H:20])CCC1(C)C.COc1ccc(C2C[NH:10]2)cc1>>CC1=C(CC(C)[NH:21]CC(O)c2ccc(Br)cc2)CCC1(C)C.COc1ccc(C2C[NH+:10]2[H:20])cc1 10=20;20,21=21",
"CC[NH:10]CC[Se-].Cc1cc(C)nc([N:21](S(=O)(=O)c2ccc(O)cc2)[H:20])n1>>CC[NH+:10](CC[Se-])[H:20].Cc1cc(C)nc([N-:21]S(=O)(=O)c2ccc(O)cc2)n1 10=20;20,21=21",
"COc1ccc(C(=O)O[C@H]2O[C@@H](C(=O)[O:21][H:20])[C@H](O)[C@@H](O)[C@@H]2O)cc1OC.Oc1ccc2[nH]c[n:10]c2c1>>COc1ccc(C(=O)O[C@H]2O[C@@H](C(=O)[O-:21])[C@H](O)[C@@H](O)[C@@H]2O)cc1OC.Oc1ccc2[nH]c[n+:10]([H:20])c2c1 10=20;20,21=21",
"NCCCCCC[NH2:10].[H][C:21](C(C)=O)(C(C)=O)[H:20]>>NCCCCCC[NH2+:10][H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"CCCCCCP(CCCCCC)(CCCCCC)=[O+:21][H:20].CCCCc1cccn[n:10]1>>CCCCCCP(CCCCCC)(CCCCCC)=[O:21].CCCCc1cccn[n+:10]1[H:20] 10=20;20,21=21",
